US08476300B2
5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl acetate
Add acetyl chloride (0.67 mL, 9.41 mmol) to a solution of 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate (2.4 g, 4.69 mmol) and diisopropylethylamine (2.45 mL, 14.05 mmol). Stir the mixture for 1 hour and then quench with aqueous sodium bicarbonate. Extract the mixture 3 times with dichloromethane. Combine the extracts, dry over sodium sulfate, filter, and concentrate to obtain the title compound (2.33 g, 4.22 mmol).

reactant | acetyl chloride | 9.41 mmol, 0.67 mL | C(C)(=O)Cl | C2H3ClO
reactant | 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate | 4.69 mmol, 2.4 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)O)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F | C24H24F3NO6S
reactant | diisopropylethylamine | 14.05 mmol, 2.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl acetate | 4.22 mmol, 2.33 g | C(C)(=O)OC1=CC2=CC=C(C(=C2C=C1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H26F3NO7S
